US07714161B2
3. Preparation of 4′-acetoxy-3,5-bis(methoxymethoxy)stilbene
A 50 mL round bottom flask was charged with p-xylene (20 mL), Pd II catalyst (22.5 mg, 0.1 mmol), 1,3-bis-(2,6-diisopropylphenyl) imidazolinium chloride (42.7 mg, 0.1 mmol), 3,5-bis(methoxymethoxy)benzoyl chloride (2.42 g, 10 mmol), 4-acetoxystyrene (1.94 g, 12 mmol), and N-methyl morpholine (1.38 g, 12 mmol). The mixture was stirred at 120° C. for 3.5 h under nitrogen atmosphere. Then it was cooled to room temperature and EtOAc was added and filtered. The filtrate was washed with brine and dried over Na2SO4. Then it was filtered and purified via flash chromatography and gave the product (2.1 g, 59%) as white solid. Data are: 1H NMR (CDCl3, 300 MHz) δ 7.48 (d, 2H), 7.08-6.93 (m, 4H), 6.86 (d, 2H), 6.66 (t, 1H), 5.19 (s, 4H), 3.50 (s, 6H), 2.30 (s, 3H); 13C NMR (CDCl3, 75 MHz) δ 169.5, 158.7, 150.3, 139.5, 135.0, 128.7, 128.5, 127.6, 121.9, 108.0, 104.5, 94.6, 56.2, 21.2; HRMS (EI+) found 358.1409 M+, calcd 358.1416 for C20H22O6.

reactant | p-xylene | 20 mL | CC=1C=CC(=CC1)C | C8H10
reactant | 3,5-bis(methoxymethoxy)benzoyl chloride | 10 mmol, 2.42 g | COCOC=1C=C(C(=O)Cl)C=C(C1)OCOC | C11H13ClO5
reactant | 4-acetoxystyrene | 12 mmol, 1.94 g | C(C)(=O)OC1=CC=C(C=C)C=C1 | C10H10O2
reactant | N-methyl morpholine | 12 mmol, 1.38 g | CN1CCOCC1 | C5H11NO
catalyst | Pd | [Pd] | Pd
catalyst | 1,3-bis-(2,6-diisopropylphenyl) imidazolinium chloride | 0.1 mmol, 42.7 mg | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[NH+]1CN(CC1)C1=C(C=CC=C1C(C)C)C(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4′-acetoxy-3,5-bis(methoxymethoxy)stilbene | 2.1 g, 59% | C(C)(=O)OC1=CC=C(C=CC2=CC(=CC(=C2)OCOC)OCOC)C=C1 | C20H22O6
